US04820834
3-(((4-Chlorophenyl)acetyl)amino)-2,3-dihydro-2-oxo-5-phenyl-1H-1, 4-benzodiazepine-1-acetic acid ethyl ester
The procedure of Example 134 was carried out using equivalent amounts of 3(R,S)-amino-1,3-dihydro-1-ethoxycarbonylmethyl-5-phenyl-2H-1,4-benzodiazepin-2-one and 4-chlorophenylacetyl chloride. The product was purified by chromatography on silica gel (hexane-ethyl acetate elution). The combined product fractions were evaporated to dryness in vacuo and crystallized to give the title compound which was dried at 65° C: m.p. 205°-207° C.

reactant | 3(R,S)-amino-1,3-dihydro-1-ethoxycarbonylmethyl-5-phenyl-2H-1,4-benzodiazepin-2-one | NC1C(N(C2=C(C(=N1)C1=CC=CC=C1)C=CC=C2)CC(=O)OCC)=O | C19H19N3O3
reactant | 4-chlorophenylacetyl chloride | ClC1=CC=C(C=C1)CC(=O)Cl | C8H6Cl2O
product | 3-(((4-Chlorophenyl)acetyl)amino)-2,3-dihydro-2-oxo-5-phenyl-1H-1, 4-benzodiazepine-1-acetic acid ethyl ester | C(C)OC(CN1C(C(N=C(C2=C1C=CC=C2)C2=CC=CC=C2)NC(CC2=CC=C(C=C2)Cl)=O)=O)=O | C27H24ClN3O4
